US07851473B2
(1) 2,2,2-Trichloroethyl (6-aminopyridin-3-yl)carbamate
To a solution of 2,5-diaminopyridine (1.00 g, 9.16 mmol) and pyridine (0.889 ml, 11.0 mmol) in tetrahydrofuran (30 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (1.52 ml, 11.0 mmol), and the mixture was stirred at room temperature for 1 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give 471 mg (18.1%) of the desired product as a solid.

reactant | 2,5-diaminopyridine | 9.16 mmol, 1.00 g | NC1=NC=C(C=C1)N | C5H7N3
reactant | pyridine | 11.0 mmol, 0.889 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 11.0 mmol, 1.52 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl (6-aminopyridin-3-yl)carbamate | 471 mg, 18.1% | NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C8H8Cl3N3O2
